US08754114B2
N-[3-(5-{1-[1-(Tetrahydrofuran-2-ylcarbonyl)piperidin-4-yl]-1H-pyrazol-4-yl}-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 1 (Step 6) starting from N-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea HCl salt and 2-tetrahydro-furancarboxylic acid, (Aldrich, Cat. No. 341517), LCMS (M+H)+: m/z=582.2.

reactant | N-{3-[5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea HCl salt | Cl.N1CCC(CC1)N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1
reactant | 2-tetrahydro-furancarboxylic acid | O1C(CCC1)C(=O)O | C5H8O3
product | N-[3-(5-{1-[1-(Tetrahydrofuran-2-ylcarbonyl)piperidin-4-yl]-1H-pyrazol-4-yl}-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | O1C(CCC1)C(=O)N1CCC(CC1)N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1 | C29H30F3N7O3
